US07572809B2
The mixture of (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-isopropenyl-6,7-dimethoxy-isoquinolin-3-yl)-amine (100 mg) and 10% Pd/C (15 mg) was sealed in high-pressure bottle under 40 psi H2 pressure and stirred at room temperature overnight. Then the mixture was filtered, and the filtrate was concentrated to give (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-isopropyl-6,7-dimethoxy-isoquinolin-3-yl)-amine as oil (30 mg). LC-MS: m/e 353 (MH+).

reactant | (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-isopropenyl-6,7-dimethoxy-isoquinolin-3-yl)-amine | 100 mg | C1(CC1)C1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)OC)C(=C)C | C20H22N4O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-isopropyl-6,7-dimethoxy-isoquinolin-3-yl)-amine | 30 mg | C1(CC1)C1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)OC)C(C)C | C20H24N4O2
